US04548974
Total hydrolysis of AAD 216A, AAD 216B and AAD 216C, individually, in 6N hydrochloric acid at reflux for 18 hours yielded no common amino acids which could be detected in a standard amino acid analysis. The presence of actinoidinic acid, which is common in the vancomycin class of antibiotics, was confirmed in the hydrolysis products by high pressure liquid chromatography and FAB mass spectrum when compared to an authentic sample. Further, hydrolysis of AAD 216A, AAD 216B and AAD 216C, individually, in 1N hydrochloric acid at reflux for 4 hours yielded mannose but not ristosamine, glucosamine or vancosamine.

reactant | vancomycin | C[C@H]1[C@H]([C@@](C[C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H](O[C@H]2OC=3C4=CC5=CC3OC=6C=CC(=CC6Cl)[C@H]([C@H](C(=O)N[C@H](C(=O)N[C@H]5C(=O)N[C@@H]7C=8C=CC(=C(C8)C9=C(C=C(C=C9O)O)[C@H](NC(=O)[C@H]([C@@H](C=1C=CC(=C(C1)Cl)O4)O)NC7=O)C(=O)O)O)CC(=O)N)NC(=O)[C@@H](CC(C)C)NC)O)CO)O)O)(C)N)O | C66H75Cl2N9O24
solvent | hydrochloric acid | 1N | Cl | ClH
product | mannose | O=C[C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
